US04670566
4-Chloro-3-nitrobiphenyl.
A mixture of 100 g (0.55 mole) of 97% purity 4-chloro-3-nitroaniline, 200 ml of concentrated hydrochloric acid and 130 ml of water was heated to reflux and then cooled to 0° C. To the resulting slurry was added dropwise a solution of 49 g (0.71 mole)of sodium nitrite in 70 ml of water over a 45 min period while maintaining the temperature at 0°-5° C. To this cold solution was added 1.3 liters of benzene (cooled to 5° C. and the mixture was stirred vigorously while a solution of 190 g sodium acetate trihydrate in 400 ml of water was added over a period of 1 hr. Vigorous stirring was continued first for 3 hr at 5° C. and then for 40 hr at ambient temperature. The organic layer was separated, washed with dilute sodium hydroxide and concentrated under reduced pressure. The residue was purified by chromatography on silica gel, eluting with 30% benzene in ligroin. Recrystallization of the isolated solid from cyclohexane-ligroin gave 71.3 g (56%) of the title product as pale yellow crystals, m.p. 43°-44° C.

reactant | 4-chloro-3-nitroaniline | ClC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | hydrochloric acid | 200 ml | Cl | ClH
reactant | sodium nitrite | 0.71 mole, 49 g | N(=O)[O-].[Na+]
reactant | sodium acetate trihydrate | 190 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | water | 70 ml | O | H2O
solvent | water | 400 ml | O | H2O
solvent | water | 130 ml | O | H2O
solvent | benzene | 1.3 liters | C1=CC=CC=C1 | C6H6
product | 4-Chloro-3-nitrobiphenyl | 71.3 g, 56% | ClC1=C(C=C(C=C1)C1=CC=CC=C1)[N+](=O)[O-] | C12H8ClNO2
